US08461196B2
A cooled (5° C.) stirred solution of maleic anhydride (29.4 g, 0.30 mole) in anhydrous ether (150 mL) under nitrogen was treated dropwise over 45 min with a solution of isopropylamine (35.5 g, 0.60 mole) in anhydrous ether (100 mL) at a rate to keep the pot temp <20° C. The mixture was then stirred at 10° C. for 15 min, filtered, and the filter cake rinsed with anhydrous ether and dried in vacuo to afford a white solid. This was taken up in acetic anhydride (250 mL), treated with anhydrous sodium acetate (12.3 g, 0.15 mole), and heated to 75° C. with stirring for 4.5 h, then at 100° C. for 1.5 h. The mixture was concentrated in vacuo and the residue taken up in methylene chloride (300 mL), washed with saturated aqueous sodium bicarbonate (200 mL), water (200 mL), dried (MgSO4), and concentrated in vacuo. The residue was distilled (approx. 5 mm pressure) to afford two products; one an N-isopropylmaleimide that distilled at 82° C. (13.0 g), the other an acetate adduct of N-isopropylmaleimide that distilled at 154° C. (12.9 g). The acetate adduct was dissolved in 4:1 acetonitrile/triethylamine (100 mL), heated to 65° C. for 4 h, then concentrated in vacuo. The residue was dissolved in methylene chloride and filtered through a pad of silica gel (eluted with methylene chloride) to afford an additional 3.5 g of N-isopropylmaleimide. Total yield was 16.5 g of N-isopropylmaleimide (40%).

reactant | maleic anhydride | 0.30 mole, 29.4 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | isopropylamine | 0.60 mole, 35.5 g | C(C)(C)N | C3H9N
reactant | sodium acetate | 0.15 mole, 12.3 g | C(C)(=O)[O-].[Na+]
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | acetic anhydride | 250 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-isopropylmaleimide | 3.5 g | C(C)(C)N1C(C=CC1=O)=O | C7H9NO2
